US06569993B1
To a solution of Fmoc-Glu(OBut)-Arg(Pmc)-Val-Asp(OAllyl)-OBzl (SEQ ID NO: 37) (12.3 g, 10.3 mmol) in 105 mL of dichloromethane is added piperidine (3.5 g, 41.3 mmol) at ambient temperature. The mixture is stirred 2 hours, then diluted with heptane, concentrated to half volume, and left standing in the freezer overnight. The liquor is decanted from the oily residue, which is then taken up in dichloromethane. The solution is washed with 0.5M aqueous citric acid, water, and brine, dried (magnesium sulfate), filtered, and concentrated. The crude solid is triturated twice with heptane and filtered to give 9.0 g of Glu(OtBu)-(L)Arg(Pmc)-Val-Asp(OAllyl)-OBzl as a white powder. (Mcalc 970.2; M+1obsvd 971).

reactant | Fmoc-Glu(OBut)-Arg(Pmc)-Val-Asp(OAllyl)-OBzl | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OCC=C)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C63H81N7O14S
reactant | piperidine | 41.3 mmol, 3.5 g | N1CCCCC1 | C5H11N
solvent | dichloromethane | 105 mL | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
product | Glu(OtBu)-(L)Arg(Pmc)-Val-Asp(OAllyl)-OBzl | 9.0 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=2CCC(C)(C)OC2C(C)=C1C)=N)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OCC=C)=O)C(=O)OCC1=CC=CC=C1 | C48H71N7O12S
